US08895582B2
To a solution of (S)-tert-butyl 4-(4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(3-(3-fluorophenyl)isoxazol-5-ylcarbamoyloxy)pentanoyl)piperazine-1-carboxylate (0.3 g, 0.36 mmol, 1.0 equiv.) in MeOH (2 mL) at 0° C., was added HCl/dioxane (4 N, 0.9 mL, 3.6 mmol, 10 equiv.). The solution was stirred at RT for 1 h. The solvents were removed and the residue was purified on RP-HPLC using a mixture of acetonitrile and H2O with 0.1% TFA. The elute was diluted with EtOAc (10 mL) and then basified with saturated NaHCO3. The organic layer was dried and concentrated to give (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-oxo-5-(piperazin-1-yl)pentyl 3-(3-fluorophenyl)isoxazol-5-ylcarbamate (0.2 g, 92%). LRMS (M+H+) m/z 605.1.

reactant | (S)-tert-butyl 4-(4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(3-(3-fluorophenyl)isoxazol-5-ylcarbamoyloxy)pentanoyl)piperazine-1-carboxylate | 0.36 mmol, 0.3 g, 1.0 equiv. | ClC1=C(CNC(N(C)[C@@H](CCC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)COC(NC2=CC(=NO2)C2=CC(=CC=C2)F)=O)=O)C=CC=C1F | C33H39ClF2N6O7
reactant | HCl dioxane | 3.6 mmol, 4 N, 0.9 mL, 10 equiv. | Cl.O1CCOCC1
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-oxo-5-(piperazin-1-yl)pentyl 3-(3-fluorophenyl)isoxazol-5-ylcarbamate | 0.2 g, 92% | FC=1C=C(C=CC1)C1=NOC(=C1)NC(OC[C@H](CCC(N1CCNCC1)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C28H31ClF2N6O5
